US05849735
10-(4-Benzoylbenzoyl)-10,11-dihydrodibenz[b,f][1,4]oxazepine
As described for Example 26, 10,11-dihydrodibenz[b,f][1,4]oxazepine is reacted with 4-(benzoyl)benzoyl chloride to give the product as an off-white, m.p. 103°-106° C.; Mass spectrum (CI), 406 (MH+).

reactant | 10,11-dihydrodibenz[b,f][1,4]oxazepine | C1=CC=CC2=C1CNC1=C(O2)C=CC=C1 | C13H11NO
reactant | 4-(benzoyl)benzoyl chloride | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)Cl)C=C1 | C14H9ClO2
product | 10-(4-Benzoylbenzoyl)-10,11-dihydrodibenz[b,f][1,4]oxazepine | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2C3=C(OC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C27H19NO3
